* TB10: opto end-of-life — FOD817 CTR degrades over years (LED dims).
* Run the coin pulse at nominal CTR=1.0, then again at CTR=0.5 (end-of-life)
* and CTR=0.3 (pessimistic). Coin detection must still produce a clean logic
* low on GPIO4. R1=1k pullup means we need >=3.3mA of opto collector current.
.param LAMPR=144
.include models.inc
.include board.inc
VADAPT VJACK 0 12
VG14 g14d 0 3.3
RG14 g14d GPIO14 15
VCOIN COINCTL 0 PULSE(0 1 10m 1u 1u 50m 150m)
VSOL SOLCTL 0 0
.options savecurrents
.control
* TLP185 GR bin is CTR 100-300%. Test: 3.0 (fresh top), 1.0 (fresh bottom of bin),
* and 0.6 (end-of-life ~40% degradation) — all must give a clean logic low.
alterparam fod817_ctr = 3.0
reset
tran 20u 80m
meas tran g4_low_ctr300 MIN v(GPIO4) from=12m to=58m
alterparam fod817_ctr = 1.0
reset
tran 20u 80m
meas tran g4_low_ctr100 MIN v(GPIO4) from=12m to=58m
alterparam fod817_ctr = 0.6
reset
tran 20u 80m
meas tran g4_low_ctr60_eol MIN v(GPIO4) from=12m to=58m
.endc
.end
